US06613942B1
2-(4-Trifluoromethylsulfonyloxy naphthyl)dioxolane:
A solution of 4-trifluoromethylsulfonyloxy naphthaldehyde (4.09 g, 13.4 mmol), ethylene glycol (1.5 mL, 1.67 g, 26.9 mmol), and p-toluene sulfonic acid (250 mg) in toluene (250 mL) was refluxed for 16 hr using a Dean-Stark trap. The solution was allowed to reach room temperature, was washed with satd. NaHCO3-sol. (2×80 mL), brine (80 mL), dried (MgSO4), and concentrated to give a yellow oil (4.79 g, quant).

reactant | 4-trifluoromethylsulfonyloxy naphthaldehyde | 13.4 mmol, 4.09 g | FC(S(=O)(=O)OC1=CC=C(C2=CC=CC=C12)C=O)(F)F | C12H7F3O4S
reactant | ethylene glycol | 26.9 mmol, 1.5 mL, 1.67 g | C(CO)O | C2H6O2
reactant | p-toluene sulfonic acid | 250 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Trifluoromethylsulfonyloxy naphthyl)dioxolane | FC(S(=O)(=O)OC1=CC=C(C2=CC=CC=C12)C1OCCO1)(F)F | C14H11F3O5S
